US06649568B2
(1) 2-(1,2,4-Triazolyl)acetophenone
To 20 ml of dimethylformamide, 1.99 g of bromoacetophenone, 0.69 g of triazole, and 2 g of potassium carbonate were added, and the mixture was allowed to react at room temperature for 16 hours. The reaction mixture was poured into 100 ml of water, and the deposited crystals were collected by filtration, which were recrystallized from ethyl acetate/hexane to obtain the desired compound (yield: 85%).

reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | bromoacetophenone | 1.99 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | triazole | 0.69 g | N1N=NC=C1 | C2H3N3
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 100 ml | O | H2O
product | 2-(1,2,4-Triazolyl)acetophenone | yield: 85% | N1N=C(N=C1)CC(=O)C1=CC=CC=C1 | C10H9N3O
